US06211215B1
To a solution of 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol (760 mg), tributyl phosphine (1.01 g) and 1,2,4-triazole (280 mg) in tetrahydrofuran (15 ml) was added dropwise, at 0° C., diethyl azodicarboxylate (700 mg). The mixture was heated for one hour under reflux, poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The residue was subjected to a silica gel column chromatography. The crystals obtained from the fraction eluted with ethyl acetate-hexane (2:1, v/v) were recrystallized from ethyl acetate-hexane to give 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-1,2,4-triazole (540 mg, 70%) as colorless prisms, mp 108-109° C.

reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol | 760 mg | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCO | C21H21NO3
reactant | tributyl phosphine | 1.01 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,2,4-triazole | 280 mg | N1N=CN=C1 | C2H3N3
reactant | diethyl azodicarboxylate | 700 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-1,2,4-triazole | 540 mg, 70% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1N=CN=C1 | C23H22N4O2
